US08389720B2
3-({[2-(4,4-difluoropiperidin-1-yl)-2-phenylethyl]amino}methyl)-1-methylquinolin-2(1H)-one
1-methyl-2-oxo-1,2-dihydroquinoline-3-carbaldehyde (35 mg, 0.187 mmol), sodium acetate (19.94 mg, 0.243 mmol), and 1-(2-ammonio-1-phenylethyl)-4,4-difluoropiperidinium dichloride (51.7 mg, 0.187 mmol) were combined in 1,2-dichloroethane (2 ml). Acetic acid (0.021 ml, 0.374 mmol) and sodium triacetoxyborohydride (119 mg, 0.561 mmol) were added and the reaction stirred for 1 hour. The reaction mixture was partitioned between CH2Cl2 and satd. bicarb, the aqueous portion extracted 3×CH2Cl2, and the organic portion dried (Na2SO4) then concentrated in vacuo. The material was carried on without further purification.

reactant | 1-methyl-2-oxo-1,2-dihydroquinoline-3-carbaldehyde | 0.187 mmol, 35 mg | CN1C(C(=CC2=CC=CC=C12)C=O)=O | C11H9NO2
reactant | sodium acetate | 0.243 mmol, 19.94 mg | C(C)(=O)[O-].[Na+]
reactant | 1-(2-ammonio-1-phenylethyl)-4,4-difluoropiperidinium dichloride | 0.187 mmol, 51.7 mg | [Cl-].[Cl-].[NH3+]CC(C1=CC=CC=C1)[NH+]1CCC(CC1)(F)F
reactant | Acetic acid | 0.374 mmol, 0.021 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.561 mmol, 119 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
product | 3-({[2-(4,4-difluoropiperidin-1-yl)-2-phenylethyl]amino}methyl)-1-methylquinolin-2(1H)-one | FC1(CCN(CC1)C(CNCC=1C(N(C2=CC=CC=C2C1)C)=O)C1=CC=CC=C1)F | C24H27F2N3O
